US04075341
2-Ureido-5,6-dihydro-s-triazolo[5,1-a]isoquinoline
2-Thiureido-5,6-dihydro-s-triazolo[5,1-a]isoquinoline (1.2 g.) is suspended in 20 ml. of 2% aqueous sodium hydroxide and 1.9 ml. of 30% H2O2 is added at 40°-45° C. After 15 minutes, the mixture is heated for 5 minutes at 80° C and, after cooling and neutralizing with dilute hydrochloric acid, the solid precipitate is recovered by filtration and purified by crystallization from 70% ethanol. Yield 0.8 g.; m.p. 210°-2° C.

reactant | 2-Thiureido 5,6-dihydro-s-triazolo[5,1-a]isoquinoline | 1.2 g | N[C@@H](CC1=CC=CS1)C(=O)NC(=O)N.N=1C=NN2C1C1=CC=CC=C1CC2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | H2O2 | OO | H2O2
reactant | hydrochloric acid | Cl | ClH
product | 2-Ureido-5,6-dihydro-s-triazolo[5,1-a]isoquinoline | N(C(=O)N)C1=NN2C(C3=CC=CC=C3CC2)=N1 | C11H11N5O
